US04523030
3.84 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester are dissolved in 20 ml of dichloromethane, the whole is cooled to 0° and there are added dropwise thereto at from 0° to 5° firstly 3.16 g of titanium tetrachloride over a period of 3 minutes and then 3.83 g of dichlorodimethyl ether (Cl2CHOCH3) over a period of 20 minutes. The whole is then stirred for 5 minutes at from 0° to 5°, gradually heated to room temperature and then stirred for 15 minutes at 35°. The mixture is then left to cool to room temperature and poured onto 25 g of ice; the organic phase is separated off, the aqueous phase is then shaken three times with 10 ml of dichloromethane each time and the organic phases are combined, washed three times with 15 ml of ice-water each time, dried over magnesium sulphate, concentrated to dryness by evaporation and chromatographed over silica gel using dichloromethane as eluant. 4-formyl-5-methoxybenzocyclobutene-1-carboxylic acid methyl ester is obtained in the form of a colourless oil.

reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 3.84 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | dichlorodimethyl ether | 3.83 g | C(OCCl)Cl | C2H4Cl2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 3.16 g | [Ti](Cl)(Cl)(Cl)Cl
product | 4-formyl-5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C=O)OC | C12H10O4
